US06689806B1
To the suspension of 3-(2,4-dimethyl-1H-pyrrol-3-yl)-propionic acid (10 g, 60.8 mmol) in 60 mL of dichloromethane was added 1,1′-carbonyldiimidazole (11.6 g, 71.8 mmol) followed by the addition of 2 M dimethylamine solution in tetrahydrofuran (30 mL) and N,N-diisopropylethylamine (Hunig's base, 10 mL, 60.8 mmol). The dark red reaction mixture was stirred at room temperature overnight and poured into ice water. The organic layer was washed with brine until pH of 6, dried over anhydrous sodium sulfate, and concentrated. The crude product was purified on a silica gel column eluting with dichloromethane-methanol (98:2) to give 9.8 g (83%) of 3-(2,4-dimethyl-1H-pyrrol-3-yl)-N,N-dimethyl-propionamide as a yellow oil.

reactant | 3-(2,4-dimethyl-1H-pyrrol-3-yl)-propionic acid | 60.8 mmol, 10 g | CC=1NC=C(C1CCC(=O)O)C | C9H13NO2
reactant | 1,1′-carbonyldiimidazole | 71.8 mmol, 11.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine | 2 M | CNC | C2H7N
reactant | N,N-diisopropylethylamine | 60.8 mmol, 10 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 3-(2,4-dimethyl-1H-pyrrol-3-yl)-N,N-dimethyl-propionamide | 9.8 g, 83% | CC=1NC=C(C1CCC(=O)N(C)C)C | C11H18N2O
